*******
* Spice Model
* Item: CWDM305ND
* Date: 06/07/12
* Revision History: A
* ==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*
* NOTE: The CWDM305ND is a dual MOSFET device.  This model
* is for a single MOSFET.  You must place 2 copies of this
* model in your circuit for EACH CWDM305ND device.
* 
* ==========================================================
*******
*SRC=CWDM305ND;CWDM305ND;MOSFETs N;Enh;30.0V 5.8A 0.030ohms Central Semi Central Semi
*SYM=POWMOSN
.SUBCKT CWDM305ND 1 2 3
* *************************************
* Model Generated by MODPEX *
* Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* modeling services provided by *
* Interface Technologies www.i-t.com *
* *************************************
* Model generated on Jun 7, 2012
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3 LAMBDA=5.87302e-09 KP=33.2806
+CGSO=3.32045e-06 CGDO=1e-11
RS 8 3 0.0071
D1 3 1 MD
.MODEL MD D IS=5e-09 RS=0.01 N=1 BV=300
+IBV=10 EG=1.11 XTI=3 TT=0.0001
+CJO=9.9337e-11 VJ=3.77746 M=0.3 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0117958
RG 2 7 2.18034
D2 4 5 MD1
* Default values used in MD1:
* RS=0 EG=1.11 XTI=3.0 TT=0
* BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=2.58912e-10 VJ=1.17422 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.406648 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.69267e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.406648
.ENDS 
******