*---------- DMN62D0UDW Spice Model ----------
.SUBCKT DMN62D0UDW 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  NMOS  L = 1E-006  W = 1E-006 
RD 10 1 1.631 
RS 30 3 0.001 
RG 20 2 133 
CGS 2 3 2.79E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1  VFB 1 
CGD 13 14 3.4E-011 
R1 13 0 1 
D1 12 13  DLIM 
DDG 15 14  DCGD 
R2 12 15 1 
D2 15 0  DLIM 
DSD 3 10  DSUB 
.MODEL NMOS NMOS  LEVEL = 3  VMAX = 1E+006  ETA = 0  VTO = 1.596 
+ TOX = 6E-008  NSUB = 1.945E+017  KP = 1.196  KAPPA = 1E-015  U0 = 400  THETA = 5.648E-007 
.MODEL DCGD D  CJO = 1.283E-011  VJ = 0.6  M = 0.4065 
.MODEL DSUB D  IS = 2.05E-009  N = 1.698  RS = 0.1282  BV = 65  CJO = 8.365E-012  VJ = 0.7198  M = 0.6 
.MODEL DLIM D  IS = 0.0001 
.ENDS
*Diodes DMN62D0UDW Spice Model v1.0 Last Revised 2015/7/3