*---------- DMN61D9UW Spice Model ----------
.SUBCKT DMN61D9UW 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 1.449 
RS 30 3 0.001 
RG 20 2 127 
DESD1 2 5 DESD 
DESD2 3 5 DESD 
CGS 2 3 2.688E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 5E-011 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.0001583 VTO = 1.189 TOX = 6E-008 NSUB = 1E+016 KP = 1.163 U0 = 400 KAPPA = 14.08 
.MODEL DCGD D CJO = 1.808E-011 VJ = 0.134 M = 0.369 
.MODEL DSUB D IS = 247.6E-9 N = 1.566 RS = 0.358 EG = 0.06341 XTI = 8.194 
+ TNOM = 217.5 BV = 70 CJO = 2.877E-012 VJ = 1.307E-009 M = 0.03355 
.MODEL DLIM D IS = 0.0001 
.MODEL DESD D IS = 2.728E-008 N = 66.22 BV = 5.068 
.ENDs
*Diodes DMN61D9UW Spice Model v1.0 Last Revised 2015/7/3